US04923993
Preparation of ethyl 5-methylpyridine-2-carboxylate
6.1 g of triethylamine are added at 0° C. to 13 g of ethyl 2,3-di-bromopropionate in 50 ml of dioxane. The mixture is stirred for 2 hours at room temperature and then a solution of 5.6 g of 1-dimethylamino-1-aza-3-methyl-1,3-butadiene and 6.1 g of triethylamine in 50 ml of dioxane is added dropwise. The reaction mixture is kept for 30 hours at 70° C. and then cooled and concentrated by evaporation. The residue is partitioned between water and ether and the organic phase is washed with brine, dried and concentrated by evaporation. The residue is distilled under reduced pressure, affording 3.2 g of the title compound as an oil with a boiling point of 69°-74° C. (at 0.08 mbar).

reactant | triethylamine | 6.1 g | C(C)N(CC)CC | C6H15N
reactant | ethyl 2,3-di-bromopropionate | BrC(C(=O)OCC)CBr | C5H8Br2O2
reactant | 1-dimethylamino-1-aza-3-methyl-1,3-butadiene | 5.6 g | CN(C=CC(=C)N)C | C6H12N2
reactant | triethylamine | 6.1 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | ethyl 5-methylpyridine-2-carboxylate | 3.2 g | CC=1C=CC(=NC1)C(=O)OCC | C9H11NO2
